US05173496
Using a similar procedure to that described in Examples 2-16, but starting from 2-nitro-N-(prop-2-ynyl)benzamide (itself prepared from 2-nitrobenzoyl chloride and prop-2-ynylamine using the process described for the preparation of the starting material for Ex. 24), using a mixture of ethanol and water (95/5 v/v) in place of aqueous methanol as the reaction solvent and having a reaction duration of 3 hours, there was obtained 1,2-dihydro-2-allenyl-3H-indazol-3-one (Ex. 177) as a solid, m.p. 126-130° C. in 12% yield.

reactant | 2-nitro-N-(prop-2-ynyl)benzamide | [N+](=O)([O-])C1=C(C(=O)NCC#C)C=CC=C1 | C10H8N2O3
reactant | 2-nitrobenzoyl chloride | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
reactant | prop-2-ynylamine | C(C#C)N | C3H5N
reactant | ethanol | C(C)O | C2H6O
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 1,2-dihydro-2-allenyl-3H-indazol-3-one | 12% yield | C(=C=C)N1NC2=CC=CC=C2C1=O | C10H8N2O
